US04379167
4-(Isopropylamino)-1-(o-methoxyphenoxy)-2-butanol Hydrochloride
A mixture which contained 11.6 g. (0.05 mole) of 1-(2-methoxyphenoxy)-2-hydroxybutyl chloride, 50 ml. of isopropyl amine and 100 ml. of n-butanol was charged in a steel bomb and heated at 120° C. for 24 hr. The resulting reaction mixture was filtered. The filtrate was concentrated to dryness and mixed with 200 ml. of 3 N hydrochloric acid, extracted with ether and the aqueous layer was made basic. The base insoluble oil was extracted into isopropyl ether, dried over sodium sulfate and concentrated to dryness. The residue was dissolved in isopropanol and mixed with 20 ml. ethereal hydrogen chloride. The gummy precipitate recrystallized using isopropyl ether and isopropanol. The hydrochloride (8.3 g.) melted at 83°-85° C.

reactant | 1-(2-methoxyphenoxy)-2-hydroxybutyl chloride | 0.05 mole | COC1=C(OC(C(CC)O)Cl)C=CC=C1 | C11H15ClO3
reactant | isopropyl amine | C(C)(C)N | C3H9N
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(Isopropylamino)-1-(o-methoxyphenoxy)-2-butanol Hydrochloride | Cl.C(C)(C)NCCC(COC1=C(C=CC=C1)OC)O | InChI=1S/C14H23NO3.ClH/c1-11(2)15-9-8-12(16)10-18-14-7-5-4-6-13(14)17-3;/h4-7,11-12,15-16H,8-10H2,1-3H3;1H
